US07868032B2
[1S-(1α, 2α, 3α, 4α)]-2-[[3-[hydroxymethyl]-7-oxabicyclo[2.2.1]hept-2-yl]methyl]-4-fluoro-1-phenylmethoxy-benzene
To a solution of [1S-(1α, 2α, 3α, 4α)]-2-[[3-[hydroxymethyl]-7-oxabicyclo[2.2.1]hept-2-yl]methyl]-4-fluoro-phenol (0.71 g, 2.8 mmol) in ethanol (30 mL) was added potassium hydroxide (0.173 g, 3.08 mmol) and the resulting mixture was refluxed until the potassium hydroxide dissolved. Then benzyl bromide (0.332 mL, 2.8 mmol) was added and the reaction was left to reflux for 16 h. After this time, the reaction was stopped and the solvent was evaporated under vacuum. The crude product was partitioned between ethyl acetate (30 mL) and 2M HCl (15 mL). The organic phase was separated; washed with a sat. solution of sodium bicarbonate (15 mL), brine (15 mL), dried (MgSO4), filtered and the solvent was evaporated “under vacuum” to give the crude product as an oil. The crude product was purified by chromatography column on a 20G SPE cartridge using ethyl acetate/hexane 1:2 as eluent to isolate 0.906 g (94%) of titled product as an oil. 1H-NMR (CDCl3, 300 MHz) δ 7.37(m, 5H, ArH), 6.86 (m, 3H, ArH), 5.08 (s, 2H, —OCH2Ph), 4.56 (d, 1H, J=4.9 Hz, —CH—O—), 4.27 (d, 1H, J=4.9 Hz, —CH—O—), 3.74 (m, 2H, —CH2OH), 2.86 (dd, 1H, J=4.4, 13.9 Hz, —CH—), 2.53 (dd, 1H, J=11.3, 13.7 Hz, —CH—), 2.29 (m, 1H, —CH2—), 2.08 (m, 1H, —CH2—), 1.80-1-32 (m, 4H, —CH2—CH2—)

reactant | 2-[[3-[hydroxymethyl]-7-oxabicyclo[2.2.1]hept-2-yl]methyl]-4-fluoro-phenol | 2.8 mmol, 0.71 g | OCC1C(C2CCC1O2)CC2=C(C=CC(=C2)F)O | C14H17FO3
reactant | potassium hydroxide | 3.08 mmol, 0.173 g | [OH-].[K+]
reactant | benzyl bromide | 2.8 mmol, 0.332 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[[3-[hydroxymethyl]-7-oxabicyclo[2.2.1]hept-2-yl]methyl]-4-fluoro-1-phenylmethoxy-benzene | 0.906 g, 94% | OCC1C(C2CCC1O2)CC2=C(C=CC(=C2)F)OCC2=CC=CC=C2 | C21H23FO3
